US08258130B2
A solution of 4-(5-fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (730 mg, 2.31 mmol) in anhydrous DMF is added slowly to a stirred solution of 60% NaH (1108 mg, 27.72 mmol) in anhydrous DMF (20 mL) at 0° C. under N2 and stirred at rt for an hour. HOSA (1305 mg, 11.55 mmol) is added portion-wise at 0° C., stirred at 0° C. for 5 hours, poured into ice/water (350 mL) and extracted with ether (3×35 mL). The combined organic extract is washed with water (2×20 mL) and brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is washed with heptane (3×5 mL) to afford 4-(1-Amino-5-fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (715 mg, 94%) as a solid. MS: 332 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.52 (d, H), 7.36 (m, H), 7.20 (s, H), 7.04 (t, H), 6.06 (s, H), 4.78 (s, 2H), 4.15(m, 2H), 3.69 (t, 2H), 2.54 (s, 2H), 1.55 (s, 9H).

reactant | 4-(5-fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.31 mmol, 730 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)F | C18H21FN2O2
reactant | NaH | 27.72 mmol, 1108 mg | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(1-Amino-5-fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 715 mg, 94% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CN(C2=CC=C(C=C12)F)N | C18H22FN3O2
